US05223539
N-cyclohexyl-4-[hydroxy(3,4,5-trimethoxyphenyl)methyl]-3-methoxy-N-(1-methylethyl)benzamide
To a stirred, cold (-15°) solution of 3,4,5-trimethoxybromobenzene (965 mg, 3.9 mmol) in ethyl ether (15 ml) is added n-BuLi (3 ml of 1.6 M solution in hexane). The reaction mixture is stirred at -8° C. for 10 min., diluted with THF (5 ml) and warmed to 0° C. After stirring for 5 min., the reaction is cooled to -30° C. and a solution of 4-formyl-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide (1.18 g, 3.9 mmol) in THF (5 ml) is added. After stirring at -30° C. for 10 min. and warming to room temperature, the reaction is poured onto 0.5 N KHSO4 and extracted with ethyl acetate. The organic layer is washed with saturated NaCl solution and dried (MgSO4). The drying agent is filtered and the filtrate concentrated in vacuo to give the crude product. This is chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound.

reactant | 3,4,5-trimethoxybromobenzene | 3.9 mmol, 965 mg | COC=1C=C(C=C(C1OC)OC)Br | C9H11BrO3
reactant | n-BuLi | 1.6 M, 3 ml | [Li]CCCC
reactant | 4-formyl-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide | 3.9 mmol, 1.18 g | C(C)(C)N(C(C1=CC(=C(C=C1)C=O)OC)=O)C1CCCCC1 | C18H25NO3
reactant | KHSO4 | 0.5 N | OS(=O)(=O)[O-].[K+]
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-cyclohexyl-4-[hydroxy(3,4,5-trimethoxyphenyl)methyl]-3-methoxy-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC(=C(C=C1)C(C1=CC(=C(C(=C1)OC)OC)OC)O)OC)=O)C(C)C | C27H37NO6
